US06613789B2
Step 1: Preparation of 2-methoxy-N-[4-(methylsulfonyl)Phenyl]-5-pyridinecarboximidamide
To a suspension of 4-(methylsulfonyl)aniline hydrochloride (1.8 g, 8.7 mmol) in toluene (50 ml) at 0° C., trimethylaluminum (2M solution in toluene, 5.2 ml, 10.4 mmol) was added over 10 minutes. The reaction mixture was warmed to room temperature and stirred for 2 hours. A solution of 6-methoxy-3-cyanopyridine (1.75 g, 13 mmol) in toluene (100 ml) was added over 10 minutes and the mixture was heated to 85-90° C. After 24 hours, the reaction mixture was cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue was washed with a mixture of methylene chloride and methanol and later with methanol. The combined filtrates were concentrated and the resulting yellowish solid was stirred with ethyl acetate (1000 ml) and filtered. The white solid (2 g, 75%) was used in the next reaction without further purification. Anal. Calc'd. for C14H16N3SClO3.0.5 H2O: C, 47.93, H, 4.88, N, 11.98. Found: C, 48.01, H, 4.82, N, 11.32.

reactant | 4-(methylsulfonyl)aniline hydrochloride | 8.7 mmol, 1.8 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | trimethylaluminum | 10.4 mmol, 2M, 5.2 ml | C[Al](C)C
reactant | 6-methoxy-3-cyanopyridine | 13 mmol, 1.75 g | COC1=CC=C(C=N1)C#N | C7H6N2O
reactant | H2O | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxy-N-[4-(methylsulfonyl)Phenyl]-5-pyridinecarboximidamide | COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)S(=O)(=O)C)=N | C14H15N3O3S
